US08202856B2
4-{1-(2-fluorophenyl)-4-[3-(4-{[(3R)-3-fluoropyrrolidin-1-yl]methyl}phenyl)-1,2,4-oxadiazol-5-yl]-1H-1,2,3-triazol-5-yl}pyridine
The title compound was prepared following the procedure described for Example 94, but starting from 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde, obtained as described in Example 113, Step 1, (200 mg; 0.48 mmol) and (S)-3-fluoropyrrolidine (121 mg; 0.97 mmol) to give Example 160 as a white solid. 1H NMR: (CDCl3, 400 MHz) δ 8.73-8.70 (2H, m), 8.05 (2H, d, J=8.03 Hz), 7.63-7.52 (2H, m), 7.47 (2H, d, J=8.0 Hz), 7.39-7.34 (3H, m), 7.18 (1H, t, J=9.1 Hz), 5.27-5.08 (1H, m), 3.72 (2H, s), 2.92-2.70 (3H, m), 2.49 (1H, q, J=7.4 Hz), 2.22-2.02 (2H, m). LC/MS (Method C): 486 (M+H)+. HPLC (Method F) Rt 3.99 min (Purity: 99.5%).

reactant | 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C22H13FN6O2
reactant | (S)-3-fluoropyrrolidine | 0.97 mmol, 121 mg | F[C@@H]1CNCC1 | C4H8FN
product | 4-{1-(2-fluorophenyl)-4-[3-(4-{[(3R)-3-fluoropyrrolidin-1-yl]methyl}phenyl)-1,2,4-oxadiazol-5-yl]-1H-1,2,3-triazol-5-yl}pyridine | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(C=C1)CN1C[C@@H](CC1)F | C26H21F2N7O
